US08455475B2
tert-Butyl 8-(pyrimidin-2-yl)-2,8-diazaspiro[4.5]decane-2-carboxylate
A stirred mixture of tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate (0.2 mmol, 1 eq.), 2-chloropyrimidine (0.4 mmol, 2 eq.), DIPEA (2 eq.), DMA (2 eq.) in 1,4-dioxane (0.5 ml) was subjected to microwave radiation in a 10 ml pressure tube at 120° C. for 30 min. After concentration, the crude product was purified by column chromatography (silica gel, 20% ethyl acetate in hexane) in order to obtain the desired product. Yield: 51%

reactant | tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate | 0.2 mmol, 1 eq. | C1N(CCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | 2-chloropyrimidine | 0.4 mmol, 2 eq. | ClC1=NC=CC=N1 | C4H3ClN2
reactant | DIPEA | 2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | DMA | 2 eq. | CC(=O)N(C)C | C4H9NO
solvent | 1,4-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | tert-Butyl 8-(pyrimidin-2-yl)-2,8-diazaspiro[4.5]decane-2-carboxylate | Yield: 51% | N1=C(N=CC=C1)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C17H26N4O2
